US07265246B2
2-(5-Phenylfuran-2-yl)ethylamine
Cool lithium aluminum hydride (21 mL, 1.0 M solution in ether) to 0° C. and add 2-(2-nitrovinyl)-5-phenylfuran (760 mg, 3.53 mmol in 5 mL of ether). Stir reaction to room temperature for 15 hours. Re-cool reaction to 0° C. and quench with 0.80 mL of water, followed by 0.80 mL 1M sodium hydroxide and 0.80 mL of water (×3). Dilute reaction with additional tetrahydrofuran and stir at room temperature for 2 hours. Filter and dry over sodium sulfate and filter again. Concentrate and perform flash column chromatography (methylene chloride, MeOH, NH4OH) to give 134 mg (20% yield) of the title compound as a brown oil. MH+ 188.0.

reactant | lithium aluminum hydride | 1.0 M, 21 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(2-nitrovinyl)-5-phenylfuran | 3.53 mmol, 5 mL, 760 mg | [N+](=O)([O-])C=CC=1OC(=CC1)C1=CC=CC=C1 | C12H9NO3
product | 2-(5-Phenylfuran-2-yl)ethylamine | 134 mg, 20% yield | C1(=CC=CC=C1)C1=CC=C(O1)CCN | C12H13NO
